US06271225B1
Ethyl 2-(2-aminoanilino)benzo[b]thiophene-3-carboxylate (3.5 g) and 1-methylpiperazine (20 ml) were dissolved in anisole (50 ml), titanium tetrachloride (3.1 ml) was added dropwise while stirring the mixture at room temperature. After the completion of dropwise addition, the mixture was stirred at 140° C. for 20 hours. The reaction mixture was cooled to 80° C. and poured into ice water. The resultant precipitate was filtrated. The filtrate was extracted with ethyl acetate (900 ml), washed with saturated brine, and dried over MgSO4. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol) and the obtained oily substance was dissolved in ethyl acetate (50 ml), to which was added a solution (10 ml) of maleic acid (580 mg) in ethyl acetate. The precipitated crystals were collected by filtration and recrystallized from ethyl acetate/methanol to give 12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine.2 maleate (1.14 g).

reactant | Ethyl 2-(2-aminoanilino)benzo[b]thiophene-3-carboxylate | 3.5 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC=C1 | C17H16N2O2S
reactant | 1-methylpiperazine | 20 ml | CN1CCNCC1 | C5H12N2
solvent | anisole | 50 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | titanium tetrachloride | 3.1 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | CN1CCN(CC1)C=1C2=C(NC3=C(N1)C=CC=C3)SC3=C2C=CC=C3 | C20H20N4S
